US07585874B2
6-Bromo-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine
As described for Example 1, 4-(bromoacetyl)-5-methyl-3-phenylisoxazole (commercially available) (140 mg, 0.5 mmol) was converted, using 2-amino-5-bromopyridine instead of 2-aminopyridine, to the title compound (75 mg, 42%) which was obtained as a yellow gum. MS: m/e=354.1/356.0 [M+H]+.

reactant | 4-(bromoacetyl)-5-methyl-3-phenylisoxazole | BrCC(=O)C=1C(=NOC1C)C1=CC=CC=C1 | C12H10BrNO2
reactant | 2-amino-5-bromopyridine | NC1=NC=C(C=C1)Br | C5H5BrN2
product | 6-Bromo-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine | 75 mg, 42% | BrC=1C=CC=2N(C1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2 | C17H12BrN3O
